US07615642B2
Step C: N-{3-Nitro-4-[(tetrahydro-2H-pyran-4-ylmethyl)amino]phenyl}acetamide
4-Aminomethyl tetrahydropyran (13.7 g, 0.119 mol) was added to a solution of N-(4-Fluoro-3-nitrophenyl)acetamide (20.2 g, 0.102 mol) and TEA (20.9 mL, 15.2 g, 0.15 mol) in EtOH (350 mL). The reaction mixture was stirred overnight at reflux. The orange-red solid was collected by filtration, washed with water and dried in vacuo. The filtrate was concentrated. The residue was dissolved in EtOAc, washed with H2O, brine and dried over anhydrous Na2SO4. The crude product was purified by silica gel flash chromatography using EtOAc as eluent. Total yield: 28.9 g (97%). 1H NMR (400 MHz, CHLOROFORM-D) δ 1.4 (m, 2 H), 1.7 (m, 2 H), 1.89-2.00 (m, 1 H), 2.18 (s, 3 H), 3.22 (dd, J=6.44, 5.66 Hz, 2 H), 3.42 (dt, J=11.86, 2.05 Hz, 2 H), 4.02 (dd, J=10.94, 3.71 Hz, 2 H), 6.84 (d, J=9.37 Hz, 1 H), 7.20 (br.s, 1 H), 7.81 (dd, J=9.37, 2.54 Hz, 1 H), 8.09 (d, J=2.54 Hz, 1 H), 8.10-8.12 (m, 1 H).

reactant | 4-Aminomethyl tetrahydropyran | 0.119 mol, 13.7 g | NCC1CCOCC1 | C6H13NO
reactant | N-(4-Fluoro-3-nitrophenyl)acetamide | 0.102 mol, 20.2 g | FC1=C(C=C(C=C1)NC(C)=O)[N+](=O)[O-] | C8H7FN2O3
solvent | EtOH | 350 mL | CCO | C2H6O
product | N-{3-Nitro-4-[(tetrahydro-2H-pyran-4-ylmethyl)amino]phenyl}acetamide | [N+](=O)([O-])C=1C=C(C=CC1NCC1CCOCC1)NC(C)=O | C14H19N3O4
